US06559162B2
tert-Butyl 8-{[3-(4-Cyanoanilino)propyl](methyl)amino}-3-azabicyclo[3.2.1]octane-3-carboxylate
A mixture of 4-({3-[3-azabicyclo[3.2.1]oct-8-yl(methyl)amino]propyl}amino)benzonitrile (Preparation H; 170 mg, 0.569 mmol) and di-tert-butyldicarbonate (124 mg, 0.569 mmol) in dichloromethane (3.0 mL) was stirred for 2 h at 25° C. under nitrogen. The mixture was concentrated in vacuo and the residue chromatographed on silica gel, eluting with ethyl acetate:dichloromethane (1:2), to yield 90 mg (40%) of the title compound as a colorless oil.

reactant | 4-({3-[3-azabicyclo[3.2.1]oct-8-yl(methyl)amino]propyl}amino)benzonitrile | 0.569 mmol, 170 mg | C12CNCC(CC1)C2N(CCCNC2=CC=C(C#N)C=C2)C | C18H26N4
reactant | di-tert-butyldicarbonate | 0.569 mmol, 124 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | tert-Butyl 8-{[3-(4-Cyanoanilino)propyl](methyl)amino}-3-azabicyclo[3.2.1]octane-3-carboxylate | 90 mg, 40% | C(#N)C1=CC=C(NCCCN(C2C3CN(CC2CC3)C(=O)OC(C)(C)C)C)C=C1 | C23H34N4O2
